US06797823B1
1-[2-Amino-4-(benzyloxy)-5-methoxyphenyl]-1-ethanone
1-(4-Hydroxy-3-methoxyphenyl)-1-ethanone (20 g), potassium carbonate (18.3 g), tetra-n-butylammonium iodide (4.45 g), and benzyl bromide (17.3 ml) were dissolved in N,N-dimethylformamide (300 ml), and a reaction was allowed to proceed at 100° C. for one hr. The solvent was removed by distillation under the reduced pressure, and water was added to the residue, followed by extraction with ethyl acetate. The ethyl acetate layer was dried over sodium sulfate. Next, the solvent was removed by distillation under the reduced pressure. The residue and fuming nitric acid (12.47 ml) were dissolved in acetic acid (120 ml), and a reaction was allowed to proceed at room temperature for 2 hr. The reaction solution was neutralized at 0° C. by the addition of an aqueous sodium hydroxide solution, followed by extraction with chloroform. The chloroform layer was then dried over sodium sulfate. Next, the solvent was removed by distillation under the reduced pressure. The residue was dissolved in ethanol (1160 ml) and water (120 ml) with heating. Ammonium chloride (19.2 g) and zinc (101.7 g) were added thereto. The mixture was heated under reflux for 3 hr. The reaction solution was filtered through Celite, followed by washing with chloroform/methanol (3/1). The solvent was removed by distillation under the reduced pressure, and the residue was made alkaline with an aqueous sodium hydroxide solution, and the alkaline solution was extracted with chloroform. The chloroform layer was dried over sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by chromatography on silica gel by development with chloroform/ethyl acetate (10/1) to give 24.95 g (yield 77%) of the title compound (3 steps).

reactant | 1-(4-Hydroxy-3-methoxyphenyl)-1-ethanone | 20 g | OC1=C(C=C(C=C1)C(C)=O)OC | C9H10O3
reactant | potassium carbonate | 18.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 17.3 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
catalyst | tetra-n-butylammonium iodide | 4.45 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-[2-Amino-4-(benzyloxy)-5-methoxyphenyl]-1-ethanone | 24.95 g, yield 77% | NC1=C(C=C(C(=C1)OCC1=CC=CC=C1)OC)C(C)=O | C16H17NO3
